US05580872
(3R,1S)-8-(3-(1-amino-3-methylpropyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Hydrochloride
A 171 mg sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester, from Example 253i above, was dissolved in 4 mL of anhydrous acetonitrile, reacted with (3R,1S)-3-(1-amino-3-methylpropyl)pyrrolidine (400 mg, 1.32 mmol, prepared as described by Plummet et al., Tetr. Lett. 34:7529-32 (1993), and carried forward as described in Example 253j-l, omitting the deprotection reaction, to give the title product. MS (high resolution) found: 402.2174; calc: 402.2193 (M+H)+ ; 1H NMR (D6 -DMSO) δ: 0.60 (m, 2H), 0.95 (d, 3H), 1.06 (d, 3H), 1.75 (m, 1H), 2.13 (m, 1H), 2.29 (m, 2H), 2.50 (s, 3H), 3.66 (m, 3H), 3.78 (m, 1H), 3.97 (m, 1H), 7.88 (s, 1H), 9.08 (d, 1H), 13.82 (bs, 1H). Anal. Calcd for C22H29N3O3FCl.0.75H2O: C, 58.53; H, 6.81; N, 9.31; Found: C, 58.88; H, 6.70; N, 9.26.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | (3R,1S)-3-(1-amino-3-methylpropyl)pyrrolidine | N[C@@H](CCC)[C@H]1CNCC1 | C8H18N2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | (3R,1S)-8-(3-(1-amino-3-methylpropyl)pyrrolidinyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid Hydrochloride | Cl.N[C@@H](CCC)[C@H]1CN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | InChI=1S/C22H28FN3O3.ClH/c1-3-4-18(24)14-7-8-25(10-14)20-12(2)19-15(13-5-6-13)9-16(22(28)29)21(27)26(19)11-17(20)23;/h9,11,13-14,18H,3-8,10,24H2,1-2H3,(H,28,29);1H/t14-,18+;/m1./s1
